US09284323B2
A biphasic mixture of AD mix-α (6.907 g) in tert-butanol (24.5 mL)/H2O (24.5 mL) was cooled to 0° C. and 1-chloro-3-methyl-2-vinyl-naphthalene (1.00 g, 4.93 mmol) was added. The reaction mixture was stirred for 8 h at 0° C. Sodium sulfite (7.4 g) was added at 0° C. and the reaction was stirred for 40 minutes to give a white mixture. The mixture was diluted with dichloromethane and H2O. The mixture was extracted with dichloromethane (3×) and the combined organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 100% ethyl acetate/hexanes) to give 1-(1-chloro-3-methyl-naphthalen-2-yl)-ethane-1,2-diol. 1H NMR (400 MHz, CDCl3) δ 8.27 (d, J=8.2 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.57 (s, 1H), 7.56-7.47 (m, 2H), 5.70 (dd, J=9.4, 3.9 Hz, 1H), 4.11 (dd, J=10.5, 10.5 Hz, 1H), 3.80 (dd, J=11.6, 3.9 Hz, 1H), 2.66 (s, 3H).

reactant | 1-chloro-3-methyl-2-vinyl-naphthalene | 4.93 mmol, 1.00 g | ClC1=C(C(=CC2=CC=CC=C12)C)C=C | C13H11Cl
reactant | Sodium sulfite | 7.4 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol | 24.5 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | H2O | O | H2O
solvent | H2O | 24.5 mL | O | H2O
product | 1-(1-chloro-3-methyl-naphthalen-2-yl)-ethane-1,2-diol | ClC1=C(C(=CC2=CC=CC=C12)C)C(CO)O | C13H13ClO2
